US04423047
2-(Chloromethyl)sulfinyl-5-chloropyrimidine
90% m-chloroperbenzoic acid (4.2 mmol) in chloroform (7 ml) was added dropwise over 40 min to a solution of 2-(chloromethyl)thio-5-chloropyrimidine (3.9 mmol) in chloroform (6 ml) with stirring at -5° C. The mixture was allowed to reach room temperature and stirred overnight, washed with 1 M K2CO3, the dried (MgSO4) chloroform solution evaporated and the residue recrystallized from benzene/petroleum ether (60°-80° C.); yield 73%, m.p. 90° C. 1H NMR (CDCl3): δ4.70 and 5.00 (2H-CO2SO, Jgem 10 Hz), 8.84 (H-4, H-6).

reactant | m-chloroperbenzoic acid | 4.2 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(chloromethyl)thio-5-chloropyrimidine | 3.9 mmol | ClCSC1=NC=C(C=N1)Cl | C5H4Cl2N2S
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Chloromethyl)sulfinyl-5-chloropyrimidine | yield 73% | ClCS(=O)C1=NC=C(C=N1)Cl | C5H4Cl2N2OS
